US04791103
A reaction mixture of 1.7 g of 6-chloropurine riboside, 1.7 g of (1,2,3,4-tetrahydro-1-hydroxynaphthyl)methyamine as prepared in Example B hereinafter and 2.0 g of triethylamine is refluxed in 150 ml ethanol for 24 hours. Volatiles are evaporated to dryness and residue is treated with 150 ml of cold water. Clear aqueous solution is decanted off. The water treatment is repeated twice followed by dissolving the residue in methanol and evaporating it to dryness. Co-evaporation several times with methanol affords solid material. It is dried under reduced pressure yielding 2.2 g (85%) of N6 -[1,2,3,4-tetrahydro-1-hydroxy-1-naphthalenyl]methyl adenosine having a melting point of 110°-115° C. Anals. calcd. for C21H25N5O5.0.5 C2H5OH, Found: C=58.65; H=6.26, N=15.55, C=59.27; H=6.34; N=15.53.

reactant | 6-chloropurine riboside | 1.7 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | (1,2,3,4-tetrahydro-1-hydroxynaphthyl)methyamine | 1.7 g | OC1(CCCC2=CC=CC=C12)CN | C11H15NO
reactant | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N6 -[1,2,3,4-tetrahydro-1-hydroxy-1-naphthalenyl]methyl adenosine | 2.2 g, 85% | OC1(CCCC2=CC=CC=C12)CNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C21H25N5O5
